US08242145B2
Step 1: [3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid
3-Hydroxyphenylacetic acid (1.0 g, 5.2 mmol), 2-fluoro-5-(trifluoromethyl)benzaldehyde (1.0 g, 6.6 mmol), and potassium carbonate (2.2 g, 15.6 mmol) were combined in THF (20 mL) and MeCN (20 mL) and heated to 70° C. for 3 days. After acidic work-up, the crude material was purified by silica gel chromatography (20-100% EtOAc in hexanes) to give the desired product (0.25 g).

reactant | 3-Hydroxyphenylacetic acid | 5.2 mmol, 1.0 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | 2-fluoro-5-(trifluoromethyl)benzaldehyde | 6.6 mmol, 1.0 g | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | potassium carbonate | 15.6 mmol, 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | MeCN | 20 mL | CC#N | C2H3N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid | 0.25 g | C(=O)C1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)C(F)(F)F | C16H11F3O4
